US07598264B2
4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of ethyl 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (15.2 g) in THF (150 mL) was added LiOH monohydrate (5.16 g) and sufficient water to dissolve the solids. The reaction was allowed to stir at room temperature for 1.5 hours. The reaction was neutralized with 125 mL of 1N HCl and the THF was removed in vacuo. The resulting slurry was partitioned between CHCl3 and 10% aqueous KHSO4. The combined organics were dried over sodium sulfate, filtered, and concentrated to dryness to afford the desired product as a pale tan foam. LRMS (M+1)=343.0

reactant | ethyl 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 15.2 g | COC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)OCC | C20H22N2O5
reactant | water | O | H2O
reactant | HCl | 1N, 125 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid | COC1=CN=C(C=2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)O | C18H18N2O5
